US07994185B2
N-{2-Chloro-3-[5-(4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide
To a solution of N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide (0.15 g, 0.26 mmol) and ammonium formate (0.17 g, 2.6 mmol) in EtOAc (7 mL) and MeOH (7 mL) was added 20% palladium hydroxide on carbon (0.17 g, 0.24 mmol). The reaction mixture was heated to 60° C. for 2 h. The palladium was filtered off using a nylon membrane. The filtrate was concentrated under vacuum to a crude yellow solid. The residue was purified by silica gel chromatography eluting 0-100% EtOAC/hexanes. The resulting solid was dissolved in DCM (5 mL) and hexanes added to afford the title compound as a pale yellow solid (58 mg, 38.3% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.85 (s, 1H), 9.11 (d, J=1.3 Hz, 1H), 8.57 (d, J=5.4 Hz, 1H), 7.60-7.73 (m, 1H), 7.52-7.55 (m, 1H), 7.49 (t, J=7.7 Hz, 1H), 7.41-7.45 (m, 1H), 7.20 (t, J=9.1 Hz, 2H), 6.56 (dd, J=5.4, 1.3 Hz, 1H), 3.92 (ddd, J=9.6, 2.0, 1.9 Hz, 2H), 3.46 (td, J=11.6, 1.9 Hz, 2H), 2.00 (dd, J=12.8, 1.9 Hz, 2H), 1.68-1.80 (m, 2H), Note: The methine (—H) peak of the THP (tetrahydro-2H-pyran-4-yl) group is submerged under the water peak at 3.33 ppm causing broadening. MS (ESI) 549.1 [M+H]+.

reactant | N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide | 0.26 mmol, 0.15 g | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)Cl)C1CCOCC1)NS(=O)(=O)C1=C(C=CC=C1F)F | C24H18Cl2F2N4O3S2
reactant | ammonium formate | 2.6 mmol, 0.17 g | C(=O)[O-].[NH4+]
solvent | EtOAc | 7 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 7 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 0.24 mmol, 0.17 g | [OH-].[OH-].[Pd+2]
product | N-{2-Chloro-3-[5-(4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide | 58 mg, 38.3% yield | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC=NC=C1)C1CCOCC1)NS(=O)(=O)C1=C(C=CC=C1F)F | C24H19ClF2N4O3S2
